US04204068
D. 1-(6-Carboxyhexyl)-5-((E)-3-hydroxyoctylidene)hydantoin
A stirred solution of 1-(6-carboxyhexyl)-5-((E)-3-oxooctylidene)hydantoin (20 mg.) in H2O (1.5 ml.) containing a slight excess of sodium bicarbonate was treated with sodium borohydride (5 mg.). After 60 min., the solution was acidified to Congo Red with N aqueous hydrochloric acid, the liberated carboxylic acid was extracted into ethyl acetate, and the ethyl acetate solution was thrice washed with water and dried (MgSO4). Evaporation of the ethyl acetate left a pale yellow gum (14 mg.) which was identified by 'H n.m.r. spectroscopy (characteristic signal at δ5.61 (1H, triplet =CH--, J 7.1 Hz) in deuterochloroform as 1-(6-carboxyhexyl)-5-((E)-3-hydroxyoctylidene)hydantoin.

reactant | 1-(6-carboxyhexyl)-5-((E)-3-oxooctylidene)hydantoin | 20 mg | C(=O)(O)CCCCCCN/1C(=O)NC(=O)\C1=C/CC(CCCCC)=O | C18H28N2O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium borohydride | 5 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | H2O | 1.5 ml | O | H2O
product | 1-(6-Carboxyhexyl)-5-((E)-3-hydroxyoctylidene)hydantoin | C(=O)(O)CCCCCCN/1C(=O)NC(=O)\C1=C/CC(CCCCC)O | C18H30N2O5
